### PR TITLE
LongestCommonSublist: TimeM proof

### PR DESCRIPTION
**Pull request by kuotsanhsu**
Time complexity using `TimeM` is proven, but `TimeM` is messing up my lemmas `aux2_1` and `cons_aux0_cons` for the correctness proof `lcsDP` whereas my [original non-monadic implementation](https://gist.github.com/kuotsanhsu/e21ec4cfb78f3b43e898ed19d55d3625) can utilize definitional equality of `List.foldr`. Reviewers can start giving feedback while I work on the 2 lemmas with `sorry`.

### CODE REVIEW

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 1]
```diff
@@ -0,0 +1,354 @@
...
+    suffices LCS [] ys [] from nil_lcsBrute.symm.rec this
+    {
+      sublist₁ := show [] <+ [] from .slnil
+      sublist₂ := show [] <+ ys from ys.nil_sublist
+      longest
+      | cs, ⟨(h : cs <+ []), _⟩ =>
+        show cs.length ≤ [].length from
+        suffices cs = [] from this.rec Nat.le.refl
+        eq_nil_of_sublist_nil h
+    }
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:97]: Usually we would format this as
```suggestion
    { sublist₁ := show [] <+ [] from .slnil
      sublist₂ := show [] <+ ys from ys.nil_sublist
      longest
      | cs, ⟨(h : cs <+ []), _⟩ =>
        show cs.length ≤ [].length from
        suffices cs = [] from this.rec Nat.le.refl
        eq_nil_of_sublist_nil h }
```
(and throughout)

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 2]
```diff
@@ -0,0 +1,354 @@
...
+
+def test_string (lcs : List Char → List Char → List Char) (s t : String) : String :=
+  .ofList <| lcs s.toList t.toList
+
+namespace List
+
+variable {α} [DecidableEq α]
+
+/-- `cs` is a common sublist of the lists `xs` and `ys`. -/
+public structure CommonSublist (xs ys cs : List α) : Prop where
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:32]:
```suggestion
/-- `IsCommonSublist xs ys xs` indicates that `cs` is a common sublist of the lists `xs` and `ys`. -/
public structure IsCommonSublist (xs ys cs : List α) : Prop where
```

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 3]
```diff
@@ -0,0 +1,354 @@
...
+#guard_msgs(info) in
+#eval test_string lcsBrute "XMJYAUZ" "MZJAWXU"
+
+end unittest
+
+theorem nil_lcsBrute : {ys : List α} → lcsBrute [] ys = []
+  | [] | _ :: _ => lcsBrute.eq_def ..
+
+theorem lcsBrute_nil : {xs : List α} → lcsBrute xs [] = []
+  | [] | _ :: _ => lcsBrute.eq_def ..
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:84]: These should be `@[simp]`

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 4]
```diff
@@ -0,0 +1,354 @@
...
+
+theorem lcsBrute_correct : {xs ys : List α} → LCS xs ys (lcsBrute xs ys)
+  | [], ys =>
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:87]: Instead of doing a manual pattern match here, I think it would be better to use `fun_induction`, which will aso handle the `x = y` case split for you.

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 5]
```diff
@@ -0,0 +1,354 @@
...
+  aux2 (x : α) (dps : DPS α) : TimeM ℕ (DPS α × DP α × DP α) := dps.foldrM (aux3 x) default
+  aux3 (x : α) : α × DP α → DPS α × DP α × DP α → TimeM ℕ (DPS α × DP α × DP α)
+    | (y, xx), (dps, yy, xy) => do
+      ✓ let dp := dp x y xx yy xy
+      return ((y, dp) :: dps, dp, xx)
+  dp (x y : α) (xx yy xy : DP α) : DP α :=
+    if x = y then
+      ⟨x :: xy.lcs, xy.length + 1, xy.length_eq.rec rfl⟩
+    else
+      if xx.length ≥ yy.length then xx else yy
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:201]: I'd suggest
```suggestion
  aux3 (x : α) : α × DP α → DPS α × DP α × DP α → TimeM ℕ (DPS α × DP α × DP α)
    | (y, xx), (dps, yy, xy) => do
      let dp ← dp x y xx yy xy
      return ((y, dp) :: dps, dp, xx)
  dp (x y : α) (xx yy xy : DP α) : TimeM (DP α) := do
    ✓ if x = y then
      return ⟨x :: xy.lcs, xy.length + 1, xy.length_eq.rec rfl⟩
    else
      return if xx.length ≥ yy.length then xx else yy
```

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean (hunk 2 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/LongestCommonSublist.lean:32]: You might want to put the `cs` argument first so that you can write `cs.IsCommonSublist xs ys` too

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 6]
```diff
@@ -0,0 +1,354 @@
+module
+
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:2]: you might want to put `@[expose] public section` here. This exposes all your definitions by default.

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean (hunk 2 above)
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:32]: Explicit `public` is not required.

Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:32]: Also why not just 
```
abbrev CommonSublist (xs ys cs : List α) : Prop := (cs <+ xs) ∧ (cs <+ ys)
```
?

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 7]
```diff
@@ -0,0 +1,354 @@
...
+variable {α} [DecidableEq α]
+
+/-- `cs` is a common sublist of the lists `xs` and `ys`. -/
+public structure CommonSublist (xs ys cs : List α) : Prop where
+  sublist₁ : cs <+ xs
+  sublist₂ : cs <+ ys
+
+/-- `lcs` is a longest common sublist of the lists `xs` and `ys`. -/
+public structure LCS (xs ys lcs : List α) : Prop extends CommonSublist xs ys lcs where
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:37]: Following my suggestion on `CommonSubList`, this could just be 

`abbrev LCS (xs ys lcs : List α) := CommonSubList xs ys lcs ∧ ∀ cs, CommonSublist xs ys cs → cs.length ≤ lcs.length`

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean (hunk 4 above)
Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/LongestCommonSublist.lean:87]: Also, I am pretty sure `simp` could handle this case, maybe with some  sublist lemmas. Especially if you follow my `Prop` def suggestion.

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 8]
```diff
@@ -0,0 +1,354 @@
...
+                  suffices x = y from absurd this h₁
+                  cons.inj (e.symm.trans h) |>.left
+              calc cs.length
+              _  ≤ xx.length := hxx.longest cs ⟨this, hy⟩
+              _  ≤ yy.length := Nat.le_of_not_ge h₂
+        }
+
+namespace lcsDP
+
+structure DP α where
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:169]: For LCS you should really just take the list length as an input parameter. Even better, solve for a general `l` which denotes a prefix of the list (including the whole list if `l \geq n`) to an auxiliary function, and then pass `List.length` as the  argument to this parameter in the actual function

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 9]
```diff
@@ -0,0 +1,354 @@
...
+  lcs : List α
+  length : Nat
+  length_eq : lcs.length = length
+
+scoped instance : Inhabited (DP α) where default := ⟨[], 0, rfl⟩
+example : @Eq (DP α) default ⟨[], 0, rfl⟩ := rfl
+abbrev DPS α := List (α × DP α)
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:176]: why this second definition at all?

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 10]
```diff
@@ -0,0 +1,354 @@
...
+    | (y, xx), (dps, yy, xy) => do
+      ✓ let dp := dp x y xx yy xy
+      return ((y, dp) :: dps, dp, xx)
+  dp (x y : α) (xx yy xy : DP α) : DP α :=
+    if x = y then
+      ⟨x :: xy.lcs, xy.length + 1, xy.length_eq.rec rfl⟩
+    else
+      if xx.length ≥ yy.length then xx else yy
+
+section unittest
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:203]: This entire section goes in the `CslibTests` folder. Please don't put tests in the main library folder.

File: Cslib/Algorithms/Lean/LongestCommonSublist.lean [hunk 11]
```diff
@@ -0,0 +1,354 @@
...
+#guard_msgs(info) in
+#eval test_string (⟪lcsDP · ·⟫) "XMJYAUZ" "MZJAWXU"
+
+end unittest
+
+namespace lcsDP
+
+variable {x y : α} {xs ys : List α}
+
+theorem cons_aux0 : ⟪aux0 (x :: xs) ys⟫ = ⟪aux1 x ⟪aux0 xs ys⟫⟫ :=
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/LongestCommonSublist.lean:235]: The four lemmas about `aux0` sound like things you will get free as equational lemmas from lean. You should probably just `fun_induction` wherever you use these lemmas. I could be wrong so I'll tag @eric-wieser to check. If these lemmas stay, they probably ought to be `@[simp]`

**Comment by Shreyas4991** [comment]
A more CI-passing and representative title of the PR might be "feat: longest common subsequence in TimeM" or "feat: time complexity of longest common subsequence"
